US04841067
To a suspension of 31 mg of N-[(+)-2-(1-naphthylmethyl)-3-(phenethylcarbamoyl)propionyl]-L-histidine hydrazide in 1 ml of N,N-dimethylformamide were added successively dropwise 0.044 ml of a dry 5.1N-hydrogen chloride in N,N-dimethylformamide solution and 0.011 ml of isoamyl nitrite, and the mixture was stirred. After disappearance of hydrazide compound, the reaction mixture was cooled to +30° C., and neutrlized by adding 0.031 ml of triethylamine to prepare a solution of N-[(+)-2-(1-naphthylmethyl)-3-(phenethylcarbamoyl)-propionyl]-L-histidine azide. The azide solution prepared was added dropwise to a solution of 16 mg of (2RS, 3S)-3-amino-2-hydroxy-5-methylhexyl benzyl ether hydrochloride and 0.011 ml of triethylamine in 1 ml of N,N-dimethylformamide under ice-cooling, and the mixture was stirred for 16 hours under ice-cooling. A 5% aqueous sodium bicarbonate solution was added to the reaction mixture, and the mixture was extracted with ethyl acetate. The ethyl acetate layer was washed with a saturated sodium chloride aqueous solution, dried over anhydrous magnesium sulfate, and evaporated under reduced pressure. The residue was purified by preparative silica gel thin layer chromatograpy (developing solvent: lower layer of chloroform/methanol/water=8/3/1 by volume) to obtain 18 mg of (2RS, 3S)-3-{N-(+)-2-(1-naphthylmethyl)-3-(phenethylcarbamoyl)propionyl]-L-histidyl}amino-2-hydroxy-5-methylhexyl benzyl ether as a white powder.

reactant | N-[(+)-2-(1-naphthylmethyl)-3-(phenethylcarbamoyl)propionyl]-L-histidine hydrazide | 31 mg | C1(=CC=CC2=CC=CC=C12)CC(C(=O)N(N)C([C@@H](N)CC1=CNC=N1)=O)CC(NCCC1=CC=CC=C1)=O | C29H32N6O3
reactant | hydrogen chloride | Cl | ClH
reactant | N-[(+)-2-(1-naphthylmethyl)-3-(phenethylcarbamoyl)-propionyl]-L-histidine azide | C1(=CC=CC2=CC=CC=C12)CC(C(=O)N[C@@H](CC1=CNC=N1)C(=O)N=[N+]=[N-])CC(NCCC1=CC=CC=C1)=O | C29H29N7O3
reactant | azide | [N-]=[N+]=[N-]
reactant | (2RS, 3S)-3-amino-2-hydroxy-5-methylhexyl benzyl ether hydrochloride | 16 mg | Cl.C(C1=CC=CC=C1)OCC([C@H](CC(C)C)N)O
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | N,N-dimethylformamide | 1 ml | CN(C=O)C | C3H7NO
solvent | isoamyl nitrite | 0.011 ml | N(=O)OCCC(C)C | C5H11NO2
solvent | N,N-dimethylformamide | 1 ml | CN(C=O)C | C3H7NO
solvent | triethylamine | 0.011 ml | C(C)N(CC)CC | C6H15N
solvent | triethylamine | 0.031 ml | C(C)N(CC)CC | C6H15N
product | amino-2-hydroxy-5-methylhexyl benzyl ether | C(C1=CC=CC=C1)OC(C(CCC(C)C)O)N | C14H23NO2
